US08541457B2
Synthesis of Ethyl 2-(Isonicotinamido)-4-methylthiazole-5-carboxylate
To a mixture of ethyl 2-amino-4-methylthiazole-5-carboxylate (5.70 g, 30.60 mmol) and triethylamine (10.0 mL, 71.80 mmol) in tetrahydrofuran (100 mL) was added isonicotinoyl chloride hydrochloride (6.00 g, 32.00 mmol). The reaction mixture was stirred at ambient temperature for 2 days. The solvent was removed by evaporation and the resulting white solid was washed sequentially with water, 10% sodium bicarbonate solution, and water, then dried to afford the title compound in 90% yield (8.10 g); 1H NMR (DMSO-d6, 300 MHz) δ 8.77 (d, J=6.0 Hz, 2H), 8.77 (d, J=6.0 Hz, 2H), 4.23 (q, J=7.2 Hz, 2H), 2.34 (s, 3H). 1.27 (t, J=7.2 Hz, 3H); MS (ES+) m/z 292.0 (M+1).

reactant | ethyl 2-amino-4-methylthiazole-5-carboxylate | 30.60 mmol, 5.70 g | NC=1SC(=C(N1)C)C(=O)OCC | C7H10N2O2S
reactant | triethylamine | 71.80 mmol, 10.0 mL | C(C)N(CC)CC | C6H15N
reactant | isonicotinoyl chloride hydrochloride | 32.00 mmol, 6.00 g | Cl.C(C1=CC=NC=C1)(=O)Cl
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | Ethyl 2-(Isonicotinamido)-4-methylthiazole-5-carboxylate | 90% yield | C(C1=CC=NC=C1)(=O)NC=1SC(=C(N1)C)C(=O)OCC | C13H13N3O3S
